US05378694
Step (2): Preparation of 1-[3-(2-Chloro-4-Methoxyphenoxy)-propoxymethyl]-3-Formyl-4-Hydroxy-2(1H)-Quinolinone.
Following the procedure set forth in Preparation B, 1-[3-(2-chloro-4-methoxyphenoxy)propyloxymethyl]-4-hydroxy-2(1H)-quinolinone was converted to 1[3-(2-chloro-4-methoxy)phenoxy)propyloxymethyl]-3-formyl-4-hydroxy-2(1H)-quinolinone. That the expected product was obtained was confirmed by the spectral data: MS: m/e 417 (M·+); NMR (CDCl3): δ2.01 (q, 2H, CH2), 3.75 (s, 3H, OCH3), 3.85 (q, 4H, CH2 --O), 10.21 (s, 1H, CHO).

reactant | 1-[3-(2-chloro-4-methoxyphenoxy)propyloxymethyl]-4-hydroxy-2(1H)-quinolinone | ClC1=C(OCCCOCN2C(C=C(C3=CC=CC=C23)O)=O)C=CC(=C1)OC | C20H20ClNO5
reactant | 3-formyl-4-hydroxy-2(1H)-quinolinone | C(=O)C=1C(NC2=CC=CC=C2C1O)=O | C10H7NO3
product | 1-[3-(2-Chloro-4-Methoxyphenoxy)-propoxymethyl]-3-Formyl-4-Hydroxy-2(1H)-Quinolinone | ClC1=C(OCCCOCN2C(C(=C(C3=CC=CC=C23)O)C=O)=O)C=CC(=C1)OC | C21H20ClNO6
